US05389614
10a. (5-(4-Cyanobenzylidene)-2,4-dioxoimidazolidine
36.7 g (0.28 mol) of 4-cyanobenzaldehyde, 10 g (0.1 mol) of hydantoin, 21.6 g (0.263 mol) of sodium acetate and 28.6 ml (0.3 mol) of acetic anhydride are heated under reflux in 85 ml of acetic acid for 4 hours. After cooling, the mixture is poured onto ice and extracted with methylene chloride. The methylene chloride phase is concentrated, and the residue is stirred with methanol and filtered off with suction.

reactant | 4-cyanobenzaldehyde | 0.28 mol, 36.7 g | C(#N)C1=CC=C(C=O)C=C1 | C8H5NO
reactant | hydantoin | 0.1 mol, 10 g | N1C(=O)NC(=O)C1 | C3H4N2O2
reactant | sodium acetate | 0.263 mol, 21.6 g | C(C)(=O)[O-].[Na+]
reactant | acetic anhydride | 0.3 mol, 28.6 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 85 ml | C(C)(=O)O | C2H4O2
product | 5-(4-Cyanobenzylidene)-2,4-dioxoimidazolidine | C(#N)C1=CC=C(C=C2C(NC(N2)=O)=O)C=C1 | C11H7N3O2
